US04199525
With the exception of three compounds, the styrene compounds disclosed herein to be utilized for preparing the α-chloro oximes ae known and their preparations are published in the prior art. The compounds not previously prepared are synthesized following well-known published procedures. Thus, 2-bromobenzaldehyde is allowed to react with a Grignard reagent, ethyl magnesium bromide in anhydrous ether, to yield 1(2-bromophenyl)propanol. This propanol derivative is then dehydrated by refluxing it in toluene in the presence of a catalytic quantity of p-toluenesulfonic acid to yield the desired 1-bromo-2-(1-propenyl)benzene. Another previously unknown substituted styrene, namely, 1,2-dichloro-4-(1-propenyl) benzene is prepared by the same general procedure from 3,4-dichlorobenzaldehyde and ethyl magnesium bromide, followed by dehydration of the intermediate substituted propanol.

reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | ethyl magnesium bromide | C(C)[Mg]Br
product | 1,2-dichloro-4-(1-propenyl) benzene | ClC1=C(C=C(C=C1)C=CC)Cl | C9H8Cl2
